US08058299B2
A mixture of 4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-yl}-benzoic acid (45 mg, 0.1 mmol), D-proline t-butyl ester hydrochloride (31 mg, 0.15 mmol), triethylamine (50 μL, 0.3 mmol), 1-hydroxy-7-azabenzotriazole (HOAT) (20 mg, 0.15 mmol), and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (30 mg, 0.15 mmol) in anhydrous dichloromethane (5 mL) and N,N-dimethylformamide (1.5 mL) was stirred at room temperature overnight. The reaction mixture was concentrated and purified by flash chromatography (Merck silica gel 60, 230-400 mesh, 0%-100% ethyl acetate in hexane) to give (R)-1-(4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-yl}-benzoyl)-pyrrolidine-2-carboxylic acid tert-butyl ester (51 mg, 84%) as a white solid.

reactant | 4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-yl}-benzoic acid | 0.1 mmol, 45 mg | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)NC=1C=CC(=NC1)C1=CC=C(C(=O)O)C=C1)C(F)(F)F | C23H14F3N3O4
reactant | D-proline t-butyl ester hydrochloride | 0.15 mmol, 31 mg | Cl.C(C)(C)(C)OC([C@@H]1NCCC1)=O
reactant | triethylamine | 0.3 mmol, 50 μL | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxy-7-azabenzotriazole | 0.15 mmol, 20 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.15 mmol, 30 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | (R)-1-(4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-yl}-benzoyl)-pyrrolidine-2-carboxylic acid tert-butyl ester | 51 mg, 84% | C(C)(C)(C)OC(=O)[C@@H]1N(CCC1)C(C1=CC=C(C=C1)C1=NC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1)=O | C32H29F3N4O5
